Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
"Cannot live like this"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Uopn admission, the pt reports that for the past several days 
she has been trying to get into the detox program to help her 
get off heroin, however has not been having much success, as the 
places that she tried did not have available beds. She states 
that after being told that there were no beds available, she 
felt more depressed, and used more heroin, cocaine and alcohol. 
She and her boyfriend, both of whom currently homeless, were 
crashing at his friends' house, where she had a confrontation 
with the above mentioned friend. At that point, pt felt 
overwhelmed, hopeless and guilty about her drug addiction and 
felt that she wanted to die. She started cutting her arms with a 
mirror, stating that she felt that she was trying to die and at 
the same time asking for help, because she was getting sick of 
being a drug addict. She called ___ b/c she felt that she was 
immediate danger to herself.  Pt reports feeling very depressed 
since ___, poor sleep, poor appetite, feeling guilty about being 
a bad mother to her ___ yo son. She has been using cocaine, 
heroin 1 gram a day, alcohol 3 ___ ounce bottles of beer 
per day since her discharge from Deac 4 in ___. She denies any 
manic symptoms, any auditory hallucinations, reports feeling 
paranoid, however she states that is because "i'm a white girl 
in predominantly black neighborhood". During the interview, pt 
continues to endorse active suicidal ideations, stating that if 
she was discharged she probably would hurt herself. Her most 
recent suicide attempt was in ___, when she attempted to 
OD on her current psych meds, requiring ICU admission.  Pt 
states that currently she does not have a psychiatrist and that 
she is not taking any medications   

 
Past Medical History:
Pt reports multiple hospitalizations, most recent one in ___ at
Deac 4. Reports extensive suicide attempts by overdosing,
attempting to shoot self with gun (was not loaded) cutting
wrists,carbon monoxide, and hanging. 
Past psychiatrist Dr ___ in ___ ___, who
terminated with pt s/p ___ SA. 
Past medications included (From ___ note in ___:
Per ___ in ___
Gabapentin 300mg po qid
clonazepam 1mg po bid
bupropion XL 300mg po qam
Prazosin 3mg po HS
Seroquel 300mg po BID and ___ tab daily
Doxepin 20mg po HS

PAST MEDICAL HISTORY:
Sciatica
GERD
 
Social History:
___
Family History:
bipolar, anxiety
 
Physical Exam:
MENTAL STATUS EXAM (on admission)
     APPEARANCE & FACIAL EXPRESSION: Dishevelled, thin caucasian
woman, with blood shot eyes, wearing hospital ___, with
multiple red scratch marks on her left forearm, good eye contact
     POSTURE: laying in bed
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS): No abnormal
movements
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE): cooperative,
somewhat disinhibited
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC, 
ETC.):
Normal rate and rhythm, somewhat dysarthric
     MOOD: Depressed
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.):
restricted, tearfyl
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.): None
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.): Pt endorses some paranoid thinking, which 
maybe
based in reality
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS): Denies
     NEUROVEGETATIVE SYMPTOMS (E.G., DISTURBANCES OF  SLEEP,     

APPETITE, ENERGY, LIBIDO): Poor sleep, apetite, energy
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT, PLAN):
Pt reports active suicidal ideations with intent, however "i
don't know" what asked about plan
     INSIGHT AND JUDGMENT: Fair
     COGNITIVE ASSESSMENT:
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT): Alert
          ORIENTATION: x 3
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.): intact
          MEMORY (SHORT- AND LONG-TERM): ___ reg, ___ recall
          CALCULATIONS: $1.75 = 6
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE): Ave
          PROVERB INTERPRETATION: glass houses= don't make fun 
of
people
          SIMILARITIES/ANALOGIES: round
 
Pertinent Results:
___ 04:00AM   GLUCOSE-100 UREA N-10 CREAT-0.6 SODIUM-144 
POTASSIUM-3.9 CHLORIDE-111* TOTAL CO2-21* ANION GAP-16
___ 04:00AM   estGFR-Using this
___ 04:00AM   HCG-LESS THAN 
___ 04:00AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:00AM URINE  HOURS-RANDOM
___ 04:00AM URINE  HOURS-RANDOM
___ 04:00AM URINE  GR HOLD-HOLD
___ 04:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 04:00AM   WBC-7.7 RBC-4.36 HGB-13.5 HCT-40.6# MCV-93 
MCH-30.9 MCHC-33.2 RDW-13.5
___ 04:00AM   NEUTS-46.3* LYMPHS-49.4* MONOS-2.5 EOS-1.1 
BASOS-0.7
___ 04:00AM   PLT COUNT-270
___ 04:00AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:00AM URINE  RBC-0 ___ BACTERIA-NONE YEAST-NONE 
___ 04:00AM URINE  MUCOUS-OCC
 
Brief Hospital Course:
# Legal: ___
# Medical: The patient presented with several horizontal 
scratches on her L forearm, which were noted to be warm, 
erythematous, and with mild serous discharge.  She was started 
on Bactrim DS BID, which she refused.  Her wound improved.

# Psychiatric: The patient was started on suboxone 8mg SL daily 
for heroin withdrawal, and after three days this was tapered to 
4mg SL daily, and then again to 2mg SL daily for three days.  
Her prescribed dose of wellbutrin (which she had not been 
taking) was initially held while she was inpatient, as her 
reported formulation was different than the hospital pharmacy 
formulation.  However, at her request, this was restarted as SR 
at 150mg daily.  She was also treated with seroquel 300mg QHS, 
gabapentin 300mg QID, and klonopin 1mg BID.

The patient was initially vague about the reasons for her SIB, 
suggesting that it was done instrumentally for inpatient 
admission.  She later said that she cut herself to relieve 
overwhelming emotions.  She did not report improved mood during 
her hospital stay, and was very focused on continuing her stay 
until she felt she was ready to go.  When a future discharge 
date was suggested to her, she said "What if I'm not ready then? 
 What if I become suicidal?" One emotive outburst occurred over 
the weekend; patient however was consolable and no further 
episodes transpired.

On day of discharge: patient reported better mood, denied any SI 
or impulse toward SIB. Affect was brighter. Patient was in 
agreement to leave and felt ready for discharge. She was able to 
contract for safety, and displayed future goal orientation. 
Boyfriend of ___ years arrived to the unit at time of patient's 
discharge.
 
Medications on Admission:
denies
 
Discharge Medications:
1. Quetiapine 50 mg Tablet Sig: Three (3) Tablet PO QD AT 1200 
().
Disp:*90 Tablet(s)* Refills:*0*
2. Quetiapine 300 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*0*
3. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO QID (4 
times a day).
Disp:*120 Capsule(s)* Refills:*0*
4. Bupropion HCl 150 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO QAM (once a day (in the morning)).
Disp:*30 Tablet Sustained Release(s)* Refills:*0*
5. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day) as needed for anxiety/agitation.
Disp:*90 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: 
Post-traumatic stress disorder
polysubstance dependence
mood disorder not otherwise specified 
rule out substance-induced mood disorder
Axis II: deferred
Axis III: sciatica, superficial forearm scratches
Axis IV: substance use, homelessness
Axis V: GAF upon discharge: approx 50

 
Discharge Condition:
VSS.
condition improved, stabilized.
MSE upon discharge: emotionally labile Caucasian woman making 
fair eye contact,
somewhat physically restless; mood is less depressed, more
hopeful; affect is irritable and dysphoric; TC: denies feeling
actively suicidal but remains nervous about her ability to 
remain
safe in the future; TP: generally linear and goal-directed;
insight: limited by her tendency towards externalization of
responsibility; judgement appears grossly intact.

 
Discharge Instructions:
Please take medications as prescribed.
Please attend all scheduled follow-up appointments.
If you feel unsafe or unwell, call ___ or go to your nearest ED 
for help.
 
Followup Instructions:
___